US05668128
Isopentylamine (3.00 ml, manufactured by Wako Pure Chemical Industries, Ltd.) and Boc-L-phenylalanine (7.52 g, manufactured by Peptide Institute, Inc.) were dissolved in dichloromethane (50 ml). To the solution were added, under ice-cooling, HOBT (3.84 g) and WSC (5.44 g). The mixture was stirred for 18 hours at room temperature. The reaction mixture was concentrated, to which was added ethyl acetate (300 ml). The mixture was washed with a 10% aqueous solution of citric acid, a 3% aqueous solution of sodium hydrogen carbonate and a saturated aqueous saline solution. The organic layer was dried over anhydrous sodium sulfate, which was then concentrated to dryness. The concentrate was treated with ether to give N-(Boc-L-phenylalanyl)isopentylamine (7.77 g) (yield 90%). The compound thus obtained (1.00 g) was dissolved in dichloromethane (5 ml), to which was added trifluoroacetic acid (TFA, 5 ml), and the mixture was left standing for one hour at room temperature. The reaction mixture was concentrated, to which was added chloroform, followed by washing with a saturated aqueous solution of sodium hydrogen carbonate, water and a saturated aqueous saline solution, successively. The organic layer was dried over anhydrous sodium sulfate, which was then concentrated to dryness. The residue was dissolved in dichloromethane (26 ml). To the solution were added, under ice-cooling, (2S,3S)-ethyl hydrogen N-Z-aziridine-2,3-dicarboxylate (Compound 1, 965 mg) obtained in Working Example 1, HOBT (445 mg) and WSC (631 mg). The mixture was stirred for 18 hours at room temperature. The reaction mixture was concentrated, to which was added ethyl acetate. The mixture was washed with a 10% aqueous solution of citric acid, water, a saturated aqueous solution of sodium hydrogen carbonate, a 2% aqueous solution of sodium hydrogen carbonate, water and a saturated aqueous saline solution, successively. The organic layer was dried over anhydrous sodium sulfate, which was subjected to a silica gel column chromatography (Kieselgel 60 (Merck A.G.), 200 ml). The column was subjected to elution with eluents prepared by adding methanol to chloroform in sequence. From the fraction of chloroform containing 1% (V/V) methanol, the above-titled compound (Compound 2; 1.15 g) was obtained as a white powdery product (yield 76%).

reactant | Isopentylamine | 3.00 ml | C(CC(C)C)N | C5H13N
reactant | Boc-L-phenylalanine | 7.52 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | HOBT | 3.84 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 5.44 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(Boc-L-phenylalanyl)isopentylamine | 7.77 g, yield 90% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)NCCC(C)C | C19H30N2O3
